US07678913B2
N-(piperidin-4-ylmethyl)-2-(2-fluorophenyl)-2-(4-chlorophenylaminocarbonylamino)-acetamide
To a solution of 2-fluorophenylglycine (59 mg, 0.35 mmol) in DMF (4 mL), 4-chlorophenylisocyanate (54 mg, 0.35 mmol) was added. The mixture was stirred at room temperature overnight. To the solution, a solution of N-BOC-aminomethylpiperidine hydrochloride (105 mg, 0.42 mmol) and TEA (0.150 mL, 1.08 mmol) in DMF (4 mL) was added, followed by addition of BOP (239 mg, 0.54 mmol). The mixture was then stirred at room temperature overnight. EtOAc and H2O were added. The organic layer was separated, dried over Na2SO4, concentrated in vacuo.

reactant | 2-fluorophenylglycine | 0.35 mmol, 59 mg | FC1=C(C=CC=C1)NCC(=O)O | C8H8FNO2
reactant | 4-chlorophenylisocyanate | 0.35 mmol, 54 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | N-BOC-aminomethylpiperidine hydrochloride | 0.42 mmol, 105 mg | Cl.C(=O)(OC(C)(C)C)N1C(CCCC1)CN
reactant | BOP | 0.54 mmol, 239 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(piperidin-4-ylmethyl)-2-(2-fluorophenyl)-2-(4-chlorophenylaminocarbonylamino)-acetamide | N1CCC(CC1)CNC(C(NC(=O)NC1=CC=C(C=C1)Cl)C1=C(C=CC=C1)F)=O | C21H24ClFN4O2
